US09290511B2
iii) 1-[[4-[4-(hydroxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]methyl]pyrrolidin-2-one
Sodium hydride (25 mg, 60% w/w in mineral oil) was added to a solution of 2-pyrrolidinone in dry N,N-dimethylformamide (2 mL) under a nitrogen atmosphere. The mixture was stirred for 10 min then [1-[2-(chloromethyl)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-4-piperidyl]methanol (100 mg) was added. The mixture was stirred for 2 hr at room temperature. The solvent was evaporated and the residue was dissolved in ethyl acetate (10 mL) and water (10 mL). The layers were separated and the aqueous was extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with brine (1×10 mL), dried (sodium sulfate), filtered and evaporated to give the target compound (96 mg) as a yellow solid. m/z [M+H]+ 424.0. Retention time 3.95 min (LCMS method+ve 6 min). It was used in the next reaction without purification.

reactant | Sodium hydride | 25 mg | [H-].[Na+]
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | [1-[2-(chloromethyl)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-4-piperidyl]methanol | 100 mg | ClCC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)CO | C19H20ClN3OS
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-[[4-[4-(hydroxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]methyl]pyrrolidin-2-one | 96 mg | OCC1CCN(CC1)C=1C2=C(N=C(N1)CN1C(CCC1)=O)SC=C2C2=CC=CC=C2 | C23H26N4O2S
